US05703050
a) Ethyl (3-(4-(methoxycarbonylaminoiminomethyl)phenyl)ureido)acetate
1.74 g (22.7 mmol) of methyl chloroformate are added dropwise to a solution of 5 g (18.92 mmol) of ethyl (3-(4-(aminoiminomethyl)phenyl)ureido)acetate in 53 ml of triethylamine and 100 ml of DMF. After 7 d at room temperature, solid is filtered off and the filtrate is concentrated in vacuo. The residue is chromatographed on silica gel (ethyl acetate/methanol 95:5).

reactant | methyl chloroformate | 22.7 mmol, 1.74 g | ClC(=O)OC | C2H3ClO2
reactant | ethyl (3-(4-(aminoiminomethyl)phenyl)ureido)acetate | 18.92 mmol, 5 g | NN=CC1=CC=C(C=C1)NC(NCC(=O)OCC)=O | C12H16N4O3
solvent | triethylamine | 53 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Ethyl (3-(4-(methoxycarbonylaminoiminomethyl)phenyl)ureido)acetate | COC(=O)NN=CC1=CC=C(C=C1)NC(NCC(=O)OCC)=O | C14H18N4O5
